US06476064B1
N-{(Z)-7-[(1R,2R,3R,5S)-3,5-Dihydroxy-2-((S)-(E)-3-hydroxyoct-1-enyl)cyclopentyl]-hept-5-enoyl}-N-methyhnethanesulfonamide
Methyl iodide (38 μL, 0.61 mmol) and DBU (45 μL, 0.30 mmol) were added to a solution of N-{(Z)-7-[(1R,2R,3R,5S)-3,5-Dihydroxy-2-((S)-(E)-3-hydroxyoct-1-enyl)cyclopentyl]hept-5-enoyl}methanesulfonamide (44 mg, 0.10 mmol) in acetone (1.5 mL). After stirring for 2.5 h at room temperature, the reaction was diluted with EtOAc, washed with water (2×) and brine then concentrated in vacuo to afford the title compound. See FIG. 1.

reactant | Methyl iodide | 0.61 mmol, 38 μL | CI | CH3I
reactant | DBU | 0.30 mmol, 45 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N-{(Z)-7-[(1R,2R,3R,5S)-3,5-Dihydroxy-2-((S)-(E)-3-hydroxyoct-1-enyl)cyclopentyl]hept-5-enoyl}methanesulfonamide | 0.10 mmol, 44 mg | O[C@H]1[C@@H]([C@H]([C@H](C1)O)C\C=C/CCCC(=O)NS(=O)(=O)C)\C=C\[C@H](CCCCC)O | C21H37NO6S
solvent | acetone | 1.5 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{(Z)-7-[(1R,2R,3R,5S)-3,5-Dihydroxy-2-((S)-(E)-3-hydroxyoct-1-enyl)cyclopentyl]-hept-5-enoyl}-N-methyhnethanesulfonamide | O[C@H]1[C@@H]([C@H]([C@H](C1)O)C\C=C/CCCC(=O)N(S(=O)(=O)C)C)\C=C\[C@H](CCCCC)O | C22H39NO6S
